US06855710B2
a) (Z)-3-{1-[4-(N-phthalimidomethylcarbonyl-N-methyl-amino)-phenylamino]-1-phenyl-methylidene}-5-nitro-2-indolinone
Prepared analogously to Example 89 from 3-(1-ethoxy-1-phenyl-methylidene)-5-nitro-2-indolinone and 4-(N-phthalimidomethylcarbonyl-N-methyl-amino)-aniline in DMF.

reactant | 3-(1-ethoxy-1-phenyl-methylidene)-5-nitro-2-indolinone | C(C)OC(C1=CC=CC=C1)=C1C(NC2=CC=C(C=C12)[N+](=O)[O-])=O | C17H14N2O4
reactant | 4-(N-phthalimidomethylcarbonyl-N-methyl-amino)-aniline | C1(C=2C(C(N1CC(=O)N(C)C1=CC=C(N)C=C1)=O)=CC=CC2)=O | C17H15N3O3
solvent | DMF | CN(C)C=O | C3H7NO
product | (Z)-3-{1-[4-(N-phthalimidomethylcarbonyl-N-methyl-amino)-phenylamino]-1-phenyl-methylidene}-5-nitro-2-indolinone | C1(C=2C(C(N1CC(=O)N(C)C1=CC=C(C=C1)N\C(\C1=CC=CC=C1)=C\1/C(NC3=CC=C(C=C13)[N+](=O)[O-])=O)=O)=CC=CC2)=O | C32H23N5O6
